US08633175B2
Alternate Preparation of X-33: (3-{-4′-[(2,3-dihydro-1H-inden-2-ylamino)-methyl]-3′,5′-difluoro-3-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate
A mixture of [3-(3′,5′-difluoro-4′-formyl-3-biphenylyl)-1H-1,2,4-triazol-1-yl]methyl 2,2-dimethylpropanoate (67.6 g; 0.17 mol; I-X-9), 2-aminoindane (22.9 g; 0.17 mol; freebase obtained commercially) and HOAc (0.48 mL; 0.0085 mol, Note 1) in PhH (350 mL) was heated under reflux using a Dean-Stark trap to remove water. After 1.5 h, volatiles were removed in vacuo, the residue was dissolved in CH2Cl2/HOAc (400:25 mL respectively), and NaBH(OAc)3 (43 g; 0.203 mol) was added at room temperature. The mixture was stirred 12 h, and quenched by dropwise addition of water (250 mL). The mixture was stirred 30 min and separated into layers. The organic layer was washed (satd NaHCO3, brine), filtered through a pad of Na2SO4 and concentrated in vacuo. The residue was triturated with MeOH (250 mL), the resulting slurry was diluted with water (250 mL) and stirred 30 min at room temperature. Solids were collected by filtration, and washed with water. The cake was air-dried overnight on the filter, affording the title compound as an off-white solid, used without further purification. 1H NMR (400 MHz, DMSO-d6) δ ppm 1.1 (s, 9H), 2.74 (dd, J=15.7, 6.1 Hz, 2H), 3.09 (dd, J=15.8, 7.1 Hz, 2H), 3.54 (quint, J=6.6 Hz, 1H), 3.86 (s, 2H), 6.21 (s, 2H), 7.07-7.13 (m, 2H), 7.15-7.21 (m, 2H), 7.43-7.52 (m, 2H), 7.60 (t, J=7.7 Hz, 1H), 7.81 (ddd, J=7.9, 1.8, 1.1 Hz, 1H), 8.06 (ddd, J=7.8, 1.3, 1.2 Hz, 1H), 8.26 (t, J=1.7 Hz, 1H), 8.82 (s, 1H).

reactant | [3-(3′,5′-difluoro-4′-formyl-3-biphenylyl)-1H-1,2,4-triazol-1-yl]methyl 2,2-dimethylpropanoate | 0.17 mol, 67.6 g | CC(C(=O)OCN1N=C(N=C1)C=1C=C(C=CC1)C1=CC(=C(C(=C1)F)C=O)F)(C)C | C21H19F2N3O3
reactant | 2-aminoindane | NC1CC2=CC=CC=C2C1 | C9H11N
reactant | HOAc | 0.0085 mol, 0.48 mL | CC(=O)O | C2H4O2
reactant | NaBH(OAc)3 | 0.203 mol, 43 g | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | PhH | 350 mL | C1=CC=CC=C1 | C6H6
product | (3-{-4′-[(2,3-dihydro-1H-inden-2-ylamino)-methyl]-3′,5′-difluoro-3-biphenylyl}-1H-1,2,4-triazol-1-yl)methyl 2,2-dimethylpropanoate | CC(C(=O)OCN1N=C(N=C1)C=1C=C(C=CC1)C1=CC(=C(C(=C1)F)CNC1CC2=CC=CC=C2C1)F)(C)C | C30H30F2N4O2
